US04612386
A mixture of 7.03 g (0.05 g mole) of benzoyl chloride, 4.5 g (0.05 g mole) of dimethyl carbonate, and 0.85 g (0.0025 g mole) of tetra-n-butyl phosphonium bromide (TBPB) in 25 ml of sulfolane was heated at 150° C. in a reaction flask equipped with reflux condenser. After 22 hours, the condenser was replaced by a distillation head and 6.3 g (93 percent yield) of methyl benzoate distilled at 83° C.-85° C./17 mm.

reactant | benzoyl chloride | 7.03 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | dimethyl carbonate | 4.5 g | C(OC)(OC)=O | C3H6O3
catalyst | tetra-n-butyl phosphonium bromide | 0.85 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | sulfolane | 25 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | methyl benzoate | 6.3 g, 93 percent yield | C(C1=CC=CC=C1)(=O)OC | C8H8O2
